US03953434
A solution of 15 g (0.065 moles) 1,2,3,6-tetrahydro-1-methyl-5-p-methoxystyrylpyridine (free base), 15 g N-methylmaleimide, 150 ml toluene and 20 mgs hydroquinone is refluxed under nitrogen overnight. The solution is allowed to cool and evaporate. Benzene is added and evaporated twice. Water is added, and the oil is extracted with benzene. The organic layers are evaporated. The residue crystallizes and filtration and washing with ether yields 7.85 g 3a,4,6,7,8,9,9a,9b-octahydro-4-(p-methoxyphenyl)-2,7-dimethyl-2H-pyrrolo[3,4-f]-isoquinoline-1,3-dione. Chromatography of the mother liquor on basic alumina (activity II) yields an additional 3.2 g (50%) cyrstals.

reactant | 1,2,3,6-tetrahydro-1-methyl-5-p-methoxystyrylpyridine | 0.065 moles, 15 g | CN1CCC=C(C1)C=CC1=CC=C(C=C1)OC | C15H19NO
reactant | N-methylmaleimide | 15 g | CN1C(C=CC1=O)=O | C5H5NO2
catalyst | hydroquinone | 20 mgs | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3a,4,6,7,8,9,9a,9b-octahydro-4-(p-methoxyphenyl)-2,7-dimethyl-2H-pyrrolo[3,4-f]-isoquinoline-1,3-dione | 7.85 g | COC1=CC=C(C=C1)C1C2C(C3CCN(CC3=C1)C)C(N(C2=O)C)=O | C20H24N2O3
